US07323475B2
a) 4-Hydroxy-1-phenyl-isoquinoline-3-carboxylic acid ethyl ester
A mixture of 4-acetoxy-1-phenyl-isoquinoline-3-carboxylic acid ethyl ester (671 mg, 2 mmol; can be obtained according to D. A. Walsh et al. in J. Med. Chem. 1978, 21, 582-585), n-BuOH (60 ml) and concentrated H2SO4 (1.7 ml) was refluxed with stirring for 4 h before the reaction mixture was added to concentrated aqueous NaHCO3 solution (60 ml) with stirring. Then EtOAc (120 ml) was added and the mixture was stirred vigorously for 15 min. Subsequently, the organic phase was separated, dried over MgSO4 and concentrated in vacuo. Purification of the residue by flash column chromatography on silca gel using hexanes:EtOAc=95:5 as the eluent gave the title compound as a solid (126 mg); 1H NMR (CDCl3): δ=11.96 (s, 1H), 8.44 to 8.49 (m, 1H), 8.01 to 8.05 (m, 1H), 7.43 to 7.80 (m, 7H), 4.56 (q, 2H), 1.49 (t, 3H).

reactant | 4-acetoxy-1-phenyl-isoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(C2=CC=CC=C2C1OC(C)=O)C1=CC=CC=C1 | C20H17NO4
reactant | n-BuOH | 60 ml | CCCCO | C4H10O
reactant | H2SO4 | 1.7 ml | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | 60 ml | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 120 ml | CCOC(=O)C | C4H8O2
product | 4-Hydroxy-1-phenyl-isoquinoline-3-carboxylic acid ethyl ester | 126 mg | C(C)OC(=O)C=1N=C(C2=CC=CC=C2C1O)C1=CC=CC=C1 | C18H15NO3
